US04894386
Propionic anhydride (3.35 g) was added slowly to a stirred suspension of aluminum chloride (6.84 g) in anhydrous methylene chloride (70 ml) under an atmosphere of nitrogen. The mixture was stirred for 15 min, giving a yellow solution. Methyl indole-6-carboxylate (1.5 g) in methylene chloride (12 ml) was added slowly, and the temperature was maintained at approximately 25°. After complete addition, the mixture was stirred at the room temperature for 30 min, then poured onto ice (75 ml) and extracted with ethyl acetate. The combined extracts were washed (water (twice), brine), dried (MgSO4) and evaporated to give an off-white solid. The solid was triturated with ether to give methyl 3-propionyl-indole-6-carboxylate (1.73 g, 87%) as a white powder; mp 229°-231°; NMR (250 MHz, DMSO-d6): 1.12(t, 3H, CH2CH3), 2.90(q, 2H, CH2CH3), 3.87(s, 3H, OCH3), 7.80(dd, 1H, H5 -indole), 8.10(s, 1H, H2 -indole), 8.26(d, 1H, H4 -indole), 8.52(d, 1H, H7 -indole), 12.24(br s, 1H, NH).

reactant | Propionic anhydride | 3.35 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | aluminum chloride | 6.84 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Methyl indole-6-carboxylate | 1.5 g | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-propionyl-indole-6-carboxylate | 1.73 g, 87% | C(CC)(=O)C1=CNC2=CC(=CC=C12)C(=O)OC | C13H13NO3
